US04555362
L-aspartic acid, 133.1 parts, was slurried with 375 parts by volume of water and 81.5 parts 98.2% sodium hydroxide were added with cooling and stirring, the temperature being kept below 35° C. After all solid had dissolved, 50 parts by volume of 2-butanone were added and the mixture was cooled to -6° C. Diketene, 88 parts, was then added gradually over a period of 30-40 minutes with good stirring, with the temperature being maintained at from about -6° to -4° C. The mixture was then stirred for an additional 30-45 minutes without cooling. The pH of the reaction mixture initially was about pH 11.5 but fell to about pH 9 or less at the end of the reaction period. To the reaction mixture was then added 61 parts by volume of concentrated sulfuric acid with constant stirring but without cooling. The resulting mixture having a pH from about 1.9-2.0 was then warmed further to 40°-45° C. Additional 2-butanone, 250 parts by volume, was added and the liquid layers were well mixed. The organic layer was then separated and the aqueous layer was extracted at 40°-45° C. three times with 125 parts by volume portions of 2-butanone to which 12.5 parts by volume of water had been added. The aqueous layer was given a final extraction with 125 parts by volume of 2-butanone and the combined organic extracts were shaken with a little sodium sulfate to remove suspended water droplets. The extract was filtered and 2-butanone was distilled at 25-30 mm pressure to leave a residual solution of N-acetoacetyl-L-aspartic acid in water. The temperature of the solution was increased to 80°-90° C. in order to distill much of the water resulting in the formation of a thick syrup. The warm syrup was immediately mixed with 250 parts by volume of acetone and the mixture was stirred well. N-acetoacetyl-L-aspartic acid soon crystallized and the resulting slurry was cooled to about 10° C. The solid was collected on a funnel, rinsed with acetone, and then dried at 65° C. Acetone and some water were removed from the filtrate by distillation and the residual syrup was stirred with 70 parts by volume of acetone to afford a second crop of N-acetoacetyl-L-aspartic acid. A small third crop was obtained by reworking the filtrate from the second crop. The yield of crystalline N-acetoacetyl-L-aspartic acid in three crops averaged 193.3 parts.

reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Diketene | C=C1CC(=O)O1 | C4H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | N-acetoacetyl-L-aspartic acid | C(CC(=O)C)(=O)N[C@@H](CC(=O)O)C(=O)O | C8H11NO6
